US05438147
Sodium α-phthalimidoacetoxybenzenesulfonate
500 g of xylene are added to 98.0 g (0.5 mol) of anhydrous sodium phenolsulfonate and 112.0 g (0.5 mol) of α-phthalimidoacetyl chloride and the mixture is kept at 140° C. for 15 hours. After cooling, the reaction mixture is taken up in acetone, the solvent is filtered off with suction over a Buchner funnel and the crystal sludge is washed twice more with 80 ml of acetone each time. After recrystallization from 90% strength ethanol, the resulting product is dried at 40° C. under a water pump vacuum.

reactant | xylene | 500 g | C=1(C(=CC=CC1)C)C | C8H10
reactant | sodium phenolsulfonate | 0.5 mol, 98.0 g | C1=CC=C(C(=C1)O)S(=O)(=O)[O-].[Na+]
reactant | α-phthalimidoacetyl chloride | 0.5 mol, 112.0 g | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
solvent | acetone | CC(=O)C | C3H6O
product | Sodium α-phthalimidoacetoxybenzenesulfonate | C1(C=2C(C(N1CC(=O)OC1=C(C=CC=C1)S(=O)(=O)[O-])=O)=CC=CC2)=O.[Na+] | InChI=1S/C16H11NO7S.Na/c18-14(24-12-7-3-4-8-13(12)25(21,22)23)9-17-15(19)10-5-1-2-6-11(10)16(17)20;/h1-8H,9H2,(H,21,22,23);/q;+1/p-1
